US05968985
A mixture of 2-[3-(benzofuran-4-yl)phenyl]-4,4-dimethyl-4,5-dihydrooxazole (1.4 g), concentrated sulfuric acid (0.8 ml) and water (1 ml) in methanol (20 ml) was refluxed for 48 hours. After evaporating the solvent, the residue was dissolved in a mixture of ethyl acetate (50 ml) and water (50 ml). The organic layer was successively washed with 10% sodium carbonate aqueous solution, brine and dried over magnesium sulfate. The solvent was evaporated in vacuo and the residue was purified by column chromatography on silica gel eluting with toluene. The fractions containing the desired products were collected and evaporated in vacuo to afford methyl 3-(benzofuran-4-yl)benzoate (0.77 g).

reactant | 2-[3-(benzofuran-4-yl)phenyl]-4,4-dimethyl-4,5-dihydrooxazole | 1.4 g | O1C=CC2=C1C=CC=C2C=2C=C(C=CC2)C=2OCC(N2)(C)C | C19H17NO2
reactant | sulfuric acid | 0.8 ml | S(O)(O)(=O)=O | H2O4S
reactant | water | 1 ml | O | H2O
solvent | methanol | 20 ml | CO | CH4O
product | methyl 3-(benzofuran-4-yl)benzoate | 0.77 g | O1C=CC2=C1C=CC=C2C=2C=C(C(=O)OC)C=CC2 | C16H12O3
